US04532269
From the reaction of 52.3 g (0.5 m) methacryloyl chloride and 76.6 g (0.5 m) of p-nitrobenzyl alcohol and 50.6 g triethylamine was isolated 71.5 g (34.5%) of p-nitrobenzyl methacrylate as pale-yellow crystals, mp--87°-88° C.

reactant | methacryloyl chloride | 52.3 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | p-nitrobenzyl alcohol | 76.6 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
solvent | triethylamine | 50.6 g | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl methacrylate | 71.5 g, 34.5% | C(C(=C)C)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C11H11NO4
